US07022730B2
The compound Bis(4-chloroindol-3-yl)-(2,4-difluorophenyl)methane was prepared following procedure A, starting from 4-chloro indole and 2,4-difluoro benzaldehyde. LC: Tr 2.63 min, MS: 427 (M+H)+

reactant | 4-chloro indole | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | 2,4-difluoro benzaldehyde | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
product | Bis(4-chloroindol-3-yl)-(2,4-difluorophenyl)methane | ClC1=C2C(=CNC2=CC=C1)C(C1=C(C=C(C=C1)F)F)C1=CNC2=CC=CC(=C12)Cl | C23H14Cl2F2N2
